US04058550
A mixture of 722 mg of 4-(n-hexadecylamino)benzoic acid, 736 mg of glycerol, and 412 mg of p-toluene sulfonic acid is heated for 4 hours at 120° C, allowed to cool, and then is treated with ether and 2% aqueous sodium carbonate solution. Filtration affords a white solid which is recrystallized from chloroform to yield 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate, mp 112° C.

reactant | 4-(n-hexadecylamino)benzoic acid | 722 mg | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | glycerol | 736 mg | OCC(O)CO | C3H8O3
reactant | p-toluene sulfonic acid | 412 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
product | 2,3-dihydroxypropyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC(CO)O)C=C1 | C26H45NO4
